US05719152
3) Diethyl 3-phthalimidomethyl-6-nitrobenzylmalonate
A mixture of diethyl 3-methyl-6-nitrobenzylmalonate (25.0 g, 80.8 mmol), N-bromosuccinimide (18.5 g, 103.9 mmol), and azobisisobutyronitrile (AlBN, 1.1 g) in carbon tetrachloride (400 mL) was refluxed for 11 h, while 3×100 mg of AlBN were added every 3 h during the reaction. The insoluble material formed was removed by filtration and the filtrate was concentrated. The residue was dissolved in DMF (100 mL) and potassium phthalimide (13.5 g, 72.9 mmol) was added. The mixture was stirred for 3 h at 5°~60° C., poured into saturated sodium bicarbonate, and extracted with a 1:1 mixture of toluene and ethyl acetate. The organic layers were washed with brine, dried over magnesium sulfate, and concentrated. The residue was purified by silica gel column chromatography with 4:1 hexane/ethyl acetate to give 18.66 g of the title compound (51%).

reactant | diethyl 3-methyl-6-nitrobenzylmalonate | 80.8 mmol, 25.0 g | CC=1C=C(CC(C(=O)OCC)C(=O)OCC)C(=CC1)[N+](=O)[O-] | C15H19NO6
reactant | N-bromosuccinimide | 103.9 mmol, 18.5 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | azobisisobutyronitrile | 1.1 g | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
reactant | potassium phthalimide | 72.9 mmol, 13.5 g | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | carbon tetrachloride | 400 mL | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | azobisisobutyronitrile | 100 mg | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
product | Diethyl 3-phthalimidomethyl-6-nitrobenzylmalonate | 18.66 g, 51% | C1(C=2C(C(N1CC=1C=C(CC(C(=O)OCC)C(=O)OCC)C(=CC1)[N+](=O)[O-])=O)=CC=CC2)=O | C23H22N2O8
